US08685981B2
(12a) Benzyl 4-({[methyl(tetrahydro-2H-pyran-4-yl)carbamoyl]oxy}methyl)piperidine-1-carboxylate
Benzyl 4-(hydroxymethyl)piperidine-1-carboxylate (2.14 g, 8.57 mmol) was dissolved in dichloromethane (26 mL), to which pyridine (1.04 mL, 12.9 mmol) and p-nitrophenyl chloroformate (2.07 g, 12.9 mmol) were added, followed by stirring at room temperature for 35 minutes under a nitrogen atmosphere. Subsequently, N-methyltetrahydro-2H-pyran-4-amine hydrochloride (1.30 g, 8.57 mmol) and triethylamine (3.59 mL, 25.7 mmol) were added, followed by further stirring for 4.5 hours. Water was added to the resulting reaction liquid, and the resulting mixture was extracted with dichloromethane. The resulting organic layer was dried over sodium sulfate and the solvent was distilled off under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (hexane:ethyl acetate, 100:0-50:50, V/V) to give the desired title compound (2.22 g, yield 66%).

reactant | Benzyl 4-(hydroxymethyl)piperidine-1-carboxylate | 8.57 mmol, 2.14 g | OCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H19NO3
reactant | pyridine | 12.9 mmol, 1.04 mL | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 12.9 mmol, 2.07 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | N-methyltetrahydro-2H-pyran-4-amine hydrochloride | 8.57 mmol, 1.30 g | Cl.CNC1CCOCC1
reactant | triethylamine | 25.7 mmol, 3.59 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 26 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | Benzyl 4-({[methyl(tetrahydro-2H-pyran-4-yl)carbamoyl]oxy}methyl)piperidine-1-carboxylate | 2.22 g, yield 66% | CN(C(=O)OCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C1CCOCC1 | C21H30N2O5
